US08309721B2
0.95 g of potassium carbonate and 7.8 ml of 4-amino-1,2,2,6,6-pentamethylpiperidine are successively added to a solution of 1.06 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate, obtained in stage 1 of Example 49, in 8 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 2 hours and 15 minutes in a microwave, and then diluted with distilled water. The aqueous phase is extracted twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride and dried over magnesium sulphate. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane and methanol (97/3 by volume), so as to give 0.8 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoate in the form of a yellow oil, the characteristics of which are the following:

reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 7.8 ml | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate | 1.06 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C29H22FN3O2
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoate | 0.8 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CC(N(C(C1)(C)C)C)(C)C | C39H43N5O2
